US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 3,4-dichloro-benzylamide
4-[4-(2-Aminoethyl)anilino]-N-(3,4-dichlorobenzyl)-1-piperidinecarboxamide formate (0.30 g, 0.64 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.233 g, 0.577 mmol) according to Procedure G to give the title compound (eluant: 20:1 chloroform-methanol) (0.14 g, 0.17 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-(3,4-dichlorobenzyl)-1-piperidinecarboxamide formate | 0.64 mmol, 0.30 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCC2=CC(=C(C=C2)Cl)Cl)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.577 mmol, 0.233 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 3,4-dichloro-benzylamide | 0.17 mmol, 0.14 g | ClC=1C=C(CNC(=O)N2CCC(CC2)NC2=CC=C(C=C2)CCNC[C@@H](COC2=CC=C(C=C2)O)O)C=CC1Cl | C30H36Cl2N4O4
